US05364844
(3S, 5S)-5-[(1S)-1-(N-t-Butoxycarbonylamino)-2-cyclohexylethyl]-3-(1-hydroxy-1-methylethyl)dihydrofuran-2(3H)-one
15.81 ml (25.3 mmoles) of a 1.6M hexane solution of butyllithium were added, at -78° C. and under an atmosphere of nitrogen, to a solution of 3.55 ml (25.3 mmoles) of diisopropylamine in 30 ml of anhydrous tetrahydrofuran. The mixture was then stirred for 30 minutes, after which a solution of 3.58 g (11.5 mmoles) of (5S)-5-[(1S)-1-(N-t-butoxycarbonylamino)-2-cyclohexylethyl]dihydrofuran-2(3H)-one (prepared as described in Preparation 5) in 10 ml of anhydrous tetrahydrofuran was added to the mixture. It was then stirred at -78° C. for 1 hour, after which 1.86 ml (25.3 mmoles) of distilled acetone was added, and the mixture was stirred for a further 2 hours. At the end of this time, a saturated aqueous solution of ammonium chloride was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with a 10% w/v aqueous solution of citric acid, with water, and with a saturated aqueous solution of sodium chloride, in that order, and dried over anhydrous magnesium sulfate. The solvent was then removed by distillation under reduced pressure, and the resulting residue was purified by medium pressure silica gel column chromatography (using a 1:1 by volume mixture of hexane and diethyl ether as eluent), to give 3.65 g (yield 86%) of the title compound as the product of lesser polarity, in the form of white crystals, melting at 123°-125° C.

reactant | butyllithium | C(CCC)[Li]
reactant | diisopropylamine | 25.3 mmoles, 3.55 ml | C(C)(C)NC(C)C | C6H15N
reactant | (5S)-5-[(1S)-1-(N-t-butoxycarbonylamino)-2-cyclohexylethyl]dihydrofuran-2(3H)-one | 11.5 mmoles, 3.58 g | C(C)(C)(C)OC(=O)N[C@@H](CC1CCCCC1)[C@@H]1CCC(O1)=O | C17H29NO4
reactant | acetone | 25.3 mmoles, 1.86 ml | CC(=O)C | C3H6O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | hexane | 1.6M | CCCCCC | C6H14
product | (3S, 5S)-5-[(1S)-1-(N-t-Butoxycarbonylamino)-2-cyclohexylethyl]-3-(1-hydroxy-1-methylethyl)dihydrofuran-2(3H)-one | 3.65 g, yield 86% | C(C)(C)(C)OC(=O)N[C@@H](CC1CCCCC1)[C@@H]1C[C@H](C(O1)=O)C(C)(C)O | C20H35NO5
